US04618697
A mixture of 2-(1-bromoethyl)-5,5-dimethyl-2-(4-isobutylphenyl)-1,3-dioxane (3.55 g; 10 mmol), potassium acetate (1.2 g; 12 mmol), formamide (50 ml) is heated at 170° C. under stirring for 2.5 h. The reaction mixture is worked up as described in Example 1a to give 2-(4-isobutylphenyl)-propionic acid (2.5 mmol; yield 25%), m.p. 74°-76° C.

reactant | 2-(1-bromoethyl)-5,5-dimethyl-2-(4-isobutylphenyl)-1,3-dioxane | 10 mmol, 3.55 g | BrC(C)C1(OCC(CO1)(C)C)C1=CC=C(C=C1)CC(C)C | C18H27BrO2
reactant | potassium acetate | 12 mmol, 1.2 g | C(C)(=O)[O-].[K+]
solvent | formamide | 50 ml | C(=O)N | CH3NO
product | 2-(4-isobutylphenyl)-propionic acid | 2.5 mmol, yield 25% | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
